US06066704
(1-1) Synthesis of 2-bromo-4-methyl-6-tert-butylphenol
Under nitrogen atmosphere, a dimethylformamide 100 ml solution of N-bromosuccinimide (22.25 g, 125 mmol) was added dropwise at 0° C. to a dimethylformamide 100 ml solution of 2-tert-butyl-4-methylphenol (20.53 g, 125 mmol) with stirring, the resulting reaction mixture was brought up to room temperature and stirred for 5 hours.

reactant | N-bromosuccinimide | 125 mmol, 22.25 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-tert-butyl-4-methylphenol | 125 mmol, 20.53 g | C(C)(C)(C)C1=C(C=CC(=C1)C)O | C11H16O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-bromo-4-methyl-6-tert-butylphenol | BrC1=C(C(=CC(=C1)C)C(C)(C)C)O | C11H15BrO
